US05281608
3-Chloro-8-(2-furanylcarbonyl)-8,9,10,11-tetrahydro-7H-pyrido[3',4':4,5]pyrrolo[3,2-c]quinoline
The same reaction procedure and workup is followed as for the compound of Example 8 using 0.50 g (1.94 mmol) of 3-chloro-8,9,10,11-tetrahydro-7H-pyrido[3',4':4,5]pyrrolo[3,2-c]quinoline and 0.253 g (1.94 mmol) of 2-furoylchloride to yield 0.12 g (17%) of the title compound as a white solid: m.p >250° C.; m/e 351.

reactant | 3-chloro-8,9,10,11-tetrahydro-7H-pyrido[3',4':4,5]pyrrolo[3,2-c]quinoline | 1.94 mmol, 0.50 g | ClC1=CC=C2C3=C(C=NC2=C1)C1=C(N3)CCNC1 | C14H12ClN3
reactant | 2-furoylchloride | 1.94 mmol, 0.253 g | O1C(=CC=C1)C(=O)Cl | C5H3ClO2
product | 3-Chloro-8-(2-furanylcarbonyl)-8,9,10,11-tetrahydro-7H-pyrido[3',4':4,5]pyrrolo[3,2-c]quinoline | 0.12 g, 17% | ClC1=CC=C2C3=C(C=NC2=C1)C1=C(N3)CCN(C1)C(=O)C=1OC=CC1 | C19H14ClN3O2
